US07064125B2
To a mixture of cyanuric chloride (5.15 g, 27.9 mmol), potassium carbonate (3.98 g, 28.8 mmol) and 18-crown-6 (158 mg, 0.60 mmol) in toluene (40 ml), cooled in an ice bath, was added a solution of 4-chloroaniline (3.61 g, 28.3 mmol) in toluene (20 ml) over 15 minutes. After stirring at room temperature for 20 hours, the mixture was treated with ethyl acetate (60 ml) and filtered through a pad of celite under suction. The filtrate was concentrated under vacuum and recrystallized (chloroform) to give (4-chlorophenyl)-(4,6-dichloro-[1,3,5]triazin-2-yl)-amine (4.06 g, 53% yield) as a white solid. 1H NMR (d6-DMSO) δ 11.23 (1 H, s), 7.62 (2 H, d, J=9 Hz), 7.47 (2 H, d, J=9 Hz). 3C NMR (d6-DMSO) δ 169.5, 168.5, 163.6, 135.7, 128.6, 122.5, ESMS m/z 273 (M−H)−.

reactant | cyanuric chloride | 27.9 mmol, 5.15 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | potassium carbonate | 28.8 mmol, 3.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloroaniline | 28.3 mmol, 3.61 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 18-crown-6 | 0.60 mmol, 158 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | (4-chlorophenyl)-(4,6-dichloro-[1,3,5]triazin-2-yl)-amine | 4.06 g, 53% yield | ClC1=CC=C(C=C1)NC1=NC(=NC(=N1)Cl)Cl | C9H5Cl3N4
